### PR TITLE
WIP Current progress on ALV2

### PR DESCRIPTION
**Pull request by fizruk**
This PR is a work in progress, showing current state of the ALV2 project.

Main results so far:
1. `CwF_Cats.v` and `CwF_Cats_Iso.v` — introduces a category of CwF structures with `cwf_structure` as objects (as opposed to `term_fun_structure` which is dependent pair of `obj_ext_structure` and `term_fun_structure`) and proves it isomorphic to the already existing category `term_fun_structure_cat`;
2. `CwF_Cats_Simple.v` and `CwF_Cats_Simple_Iso.v` — introduces a simpler morphisms for CwF structures (without phi component) and shows that those morphisms contain all the necessary information already (the missing parts can be restored uniquely from the pullback of a CwF structure); the corresponding category is isomorphic to the one defined in `CwF_Cats.v`;
3. `RelUniv_Cat.v` — introduces two flavours of categories of relative J-universe structures; two flavours differ in morphisms similarly to CwF structures above (with/without explicit phi component); the two flavours are isomorphic when J is fully faithful (see `RelUniv_Cat_Iso.v`);
4. `RelUniv_Cat_Yo_CwF_Iso.v` — shows that category of CwF structures (as defined in `CwF_Cats_Simple.v`) is isomorphic to the "simple" category of relative universe structures over the Yoneda embedding (which is fully faithful).

One side product that might be interesting is that in `CwF_Cats_Iso.v` I did not use the existing equivalence of `cwf_structure` and `cwf'_structure` and instead redefined it (see `weq_cwf'_cwf_structure`). The original equivalence was too "heavy" for Coq to handle even simple proofs (you can see last attempts in https://github.com/UniMath/TypeTheory/commit/a468de4803bb46f63c9c9e3cc2517c03a42d5f4c). The original equivalence also causes some problems (see https://github.com/UniMath/TypeTheory/issues/162#issuecomment-551968556) so perhaps it might make sense to replace it with an equivalence from this PR.

I am currently working on lifting the transfer constructions from `TypeTheory.ALV1.RelativeUniverses` to functors (work in progress is in `RelUnivTransfer.v`). And I think that next step after that would be to introduce categories for weak relative J-universe structures.

P.S. Happy New Year! 😊🎄🎁

### CODE REVIEW

**Comment by peterlefanulumsdaine** [comment]
The build is currently broken due to a typo — see fix at https://github.com/fizruk/TypeTheory/compare/master...peterlefanulumsdaine:fizruk-AKLV (which Nikolai should be able to pull into the PR branch — I don’t have push access to it).  At least locally for me, that fixes the build.

On a brief look, this looks good to me.  I’m a bit busy to do a full careful review this week or next week, I’m afraid; if Benedikt has already given it a careful review then I endorse merging it, otherwise I’ll look at it properly once I have time (and please feel free to give me a heads-up if I don’t get back to it within a couple of weeks).

**Comment by fizruk** [comment]
@peterlefanulumsdaine Thanks for spotting the typo!

I was thinking to keep this PR open as work-in-progress, at least until I complete the next few steps which seem fairly straightforward. But feel free to merge if that is best 😊

**Comment by peterlefanulumsdaine** [comment]
Keeping it as WIP for now is fine with me.  Give me a heads-up on this thread whenever you want a particular look at it, or a review for merging!

**Comment by fizruk** [comment]
Some new progress:

- `RelUniv_Cat_Simple.v`:
  - now `gen_reluniv_cat` generalizes "simple" (naive) `reluniv_cat` and `weak_reluniv_cat`;
  - `weak_from_reluniv_functor` a functor from `reluniv_cat` to `weak_reluniv_cat`
    - it is always fully faithful (and in particular for yoneda embedding);
    - and sometimes it is also a `catiso` (in particular for yoneda embedding of Rezk completion).
- `RelUnivTransfer.v`:
  - mappings of morphisms for `reluniv_cat` is an equivalence when `S` is fully faithful, which is used to prove that transfer functors are fully faithful as well;
  - definitions culminate in
    - `transfer_of_RelUnivYoneda_functor` — a fully faithful functor from relu(Yo(C)) to relu(Yo(RC(C)))
    - `transfer_of_WeakRelUnivYoneda_functor` — a functor from relwku(Yo(C)) to relwku(Yo(RC(C))) that is a `catiso`.

These definitions together complete the following part of the diagram in categories:

Screenshot 2020-01-14 at 20 20 01

File: TypeTheory/ALV2/CwF_Cats.v [hunk 1]
```diff
@@ -0,0 +1,417 @@
...
+
+Require Import TypeTheory.Auxiliary.Auxiliary.
+Require Import TypeTheory.ALV1.CwF_def.
+
+Set Automatic Introduction.
+
+Section Auxiliary.
+
+  (* Switch between composition and application for morphisms *)
+  Lemma compose_ap
```
Comment (benediktahrens) [inline TypeTheory/ALV2/CwF_Cats.v]: Such a lemma should ideally not be needed.

File: TypeTheory/ALV2/CwF_Cats.v [hunk 2]
```diff
@@ -0,0 +1,417 @@
...
+    + (* Identity morphisms *)
+      intros X.
+      use make_cwf_structure_mor.
+      - exists (identity (TM X)). (* F_TM = identity *)
+        exists (identity (TY X)). (* F_TY = identity *)
+        intros Γ A.
+        exact (identity _). (* ϕ = identity *)
+      - intros Γ A. cbn. apply id_left.
+      - etrans. apply id_left. apply @pathsinv0, id_right.
+      - intros Γ A. cbn. rewrite (functor_id (TM X)). apply idpath.
```
Comment (benediktahrens) [inline TypeTheory/ALV2/CwF_Cats.v]: I think these subproofs should be made opaque. Maybe it would be good to define the identity morphism in a separate Coq Definition.

File: TypeTheory/ALV2/CwF_Cats.v [hunk 3]
```diff
@@ -0,0 +1,417 @@
...
+        apply (maponpaths (λ p, p ;; F_TY')).
+        exact f2.
+      - intros Γ A. simpl.
+        set (A' := (F_TY : nat_trans _ _) _ A).
+        unfold cwf_structure_mor_term_axiom in f3, g3. simpl in f3, g3.
+        refine (maponpaths _ (f3 Γ A) @ _).
+        etrans. apply (toforallpaths _ _ _ (nat_trans_ax F_TM' _ _ _)).
+        refine (maponpaths _ (g3 Γ A') @ _).
+        rewrite <- compose_ap, <- (functor_comp (TM Z)).
+        apply idpath.
```
Comment (benediktahrens) [inline TypeTheory/ALV2/CwF_Cats.v]: As above, it would be good to make these proofs opaque. Also, composition should be defined in a separate Definition.

File: TypeTheory/ALV2/CwF_Cats.v [hunk 4]
```diff
@@ -0,0 +1,417 @@
...
+    - (* Associativity: f · (g · h) = (f · g) · h *)
+      intros a b c d.
+      intros f g h.
+      use cwf_structure_mor_eq.
+      + intros Γ t. apply idpath.
+      + intros Γ A. apply idpath.
+      + intros Γ A. cbn.
+        rewrite id_right, assoc'.
+        apply idpath.
+  Defined.
```
Comment (benediktahrens) [inline TypeTheory/ALV2/CwF_Cats.v]: `Qed.` instead?

File: TypeTheory/ALV2/CwF_Cats_Simple.v [hunk 5]
```diff
@@ -0,0 +1,468 @@
...
+    apply (make_precategory_data cwf_structure_precategory_ob_mor).
+
+    + (* Identity morphisms *)
+      intros X.
+      use make_cwf_structure_mor.
+      - exists (identity _).
+        apply identity.
+      - unfold cwf_structure_mor_typing_axiom. simpl.
+        etrans. apply (id_left (pr1 X)).
+        apply pathsinv0, (id_right (pr1 X)).
```
Comment (benediktahrens) [inline TypeTheory/ALV2/CwF_Cats_Simple.v]: Make opaque?

File: TypeTheory/ALV2/CwF_Cats_Simple.v [hunk 6]
```diff
@@ -0,0 +1,468 @@
...
+      intros [[F_TM F_TY] ax] [[F_TM' F_TY'] ax'].
+      use make_cwf_structure_mor.
+      - exists (F_TM ;; F_TM').
+        apply (F_TY ;; F_TY').
+      - unfold cwf_structure_mor_typing_axiom. simpl.
+        etrans. apply (assoc' F_TM).
+        etrans. apply maponpaths, ax'.
+        etrans. apply (assoc F_TM).
+        etrans. apply maponpaths_2, ax.
+        apply (assoc' (pr1 X)).
```
Comment (benediktahrens) [inline TypeTheory/ALV2/CwF_Cats_Simple.v]: Maybe make opaque?

File: TypeTheory/ALV2/CwF_Cats_Simple.v [hunk 7]
```diff
@@ -0,0 +1,468 @@
...
+      use cwf_structure_mor_eq.
+      + apply id_right.
+      + apply id_right.
+    - (* Associativity: f · (g · h) = (f · g) · h *)
+      intros a b c d.
+      intros f g h.
+      use cwf_structure_mor_eq.
+      + apply assoc.
+      + apply assoc.
+  Defined.
```
Comment (benediktahrens) [inline TypeTheory/ALV2/CwF_Cats_Simple.v]: `Qed.`?

File: TypeTheory/ALV2/CwF_Cats_Simple.v [hunk 8]
```diff
@@ -0,0 +1,468 @@
...
+     : isaset (cwf_structure_mor X X').
+  Proof.
+    apply isaset_total2.
+    - apply isaset_dirprod.
+      + apply homset_property.
+      + apply homset_property.
+    - intros mor.
+      apply isasetaprop.
+      apply isaprop_is_cwf_structure_mor.
+  Defined.
```
Comment (benediktahrens) [inline TypeTheory/ALV2/CwF_Cats_Simple.v]: Qed?

File: TypeTheory/ALV2/CwF_Cats_Simple_Iso.v [hunk 9]
```diff
@@ -0,0 +1,146 @@
...
+  Definition cwf_to_cwfS_functor_compax
+    : functor_compax cwf_to_cwfS_functor_data.
+  Proof.
+    intros a b c.
+    intros f g.
+
+    use total2_paths_f.
+    + apply idpath.
+    + apply homset_property.
+  Defined.
```
Comment (benediktahrens) [inline TypeTheory/ALV2/CwF_Cats_Simple_Iso.v]: Qed?

File: TypeTheory/ALV2/CwF_Cats_Simple_Iso.v [hunk 10]
```diff
@@ -0,0 +1,146 @@
...
+
+  Definition cwf_to_cwfS_functor_idax
+    : functor_idax cwf_to_cwfS_functor_data.
+  Proof.
+    intros c. 
+    use total2_paths_f.
+    + apply idpath.
+    + apply homset_property.
+  Defined.
```
Comment (benediktahrens) [inline TypeTheory/ALV2/CwF_Cats_Simple_Iso.v]: Qed?

File: TypeTheory/ALV2/RelUnivTransfer.v [hunk 11]
```diff
@@ -0,0 +1,523 @@
...
+    Defined.
+
+    Definition reluniv_functor_idax_with_ess_split
+      : functor_idax reluniv_functor_data_with_ess_split.
+    Proof.
+      intros u.
+      use gen_reluniv_mor_eq.
+      - etrans. apply functor_id. apply idpath.
+      - etrans. apply functor_id. apply idpath.
+    Defined.
```
Comment (benediktahrens) [inline TypeTheory/ALV2/RelUnivTransfer.v]: Qed?

File: TypeTheory/ALV2/RelUnivTransfer.v [hunk 12]
```diff
@@ -0,0 +1,523 @@
...
+
+    Definition reluniv_functor_compax_with_ess_split
+      : functor_compax reluniv_functor_data_with_ess_split.
+    Proof.
+      intros a b c f g.
+      use gen_reluniv_mor_eq.
+      - etrans. apply functor_comp. apply idpath.
+      - etrans. apply functor_comp. apply idpath.
+    Defined.
```
Comment (benediktahrens) [inline TypeTheory/ALV2/RelUnivTransfer.v]: Qed?

File: TypeTheory/ALV2/RelUniv_Cat.v [hunk 13]
```diff
@@ -5,22 +5,637 @@
...
+        apply maponpaths, (pr1 (pr2 ϕ)).
+      * apply (pr2 (pr2 ϕ)).
+      * apply pathsinv0, P.
+        -- etrans. apply pathsinv0, functor_comp.
+          apply maponpaths, (pr1 (pr2 ϕ')).
+        -- apply (pr2 (pr2 ϕ')).
+    + apply dirprod_paths.
+      * apply homset_property.
+      * apply homset_property.
+  Defined.
```
Comment (benediktahrens) [inline TypeTheory/ALV2/RelUniv_Cat.v]: Qed?

File: TypeTheory/ALV2/RelUniv_Cat.v [hunk 14]
```diff
@@ -5,22 +5,637 @@
...
+           _ _
+           (λ k e_fk,
+            idtoiso (! maponpaths (Xf u1 X) e_fk)
+              ;; pr1 (ϕ X f)
+              ;; idtoiso (maponpaths (Xf u2 X) (maponpaths (postcompose (F_U mor)) e_fk))
+            = pr1 (ϕ X k)) _ _ e_fg).
+    simpl.
+    etrans. apply id_right.
+    apply id_left.
+  Defined.
```
Comment (benediktahrens) [inline TypeTheory/ALV2/RelUniv_Cat.v]: Better hide this (ugly) proof with Qed?

File: TypeTheory/ALV2/RelUniv_Cat.v [hunk 15]
```diff
@@ -5,22 +5,637 @@
...
+        (* Step 7: factor out Xf d X *)
+        etrans. apply pathsinv0, maponpaths, maponpathscomp0.
+        etrans. apply pathsinv0, maponpathscomp0.
+        apply pathsinv0.
+        etrans. apply pathsinv0, maponpathscomp0.
+        apply maponpaths.
+
+        (* Step 8: complete the proof *)
+        apply homset_property.
+  Defined.
```
Comment (benediktahrens) [inline TypeTheory/ALV2/RelUniv_Cat.v]: Maybe prove the individual subgoals of this lemma in separate lemmas?

Can be Qed'd?

File: TypeTheory/ALV2/RelUniv_Cat.v [hunk 16]
```diff
@@ -5,22 +5,637 @@
...
+      apply impred_isaset. intros X.
+      apply impred_isaset. intros f.
+      apply isaset_total2.
+      + apply homset_property.
+      + intros ϕ.
+        apply isasetaprop.
+        apply isapropdirprod.
+        * apply homset_property.
+        * apply homset_property.
+  Defined.
```
Comment (benediktahrens) [inline TypeTheory/ALV2/RelUniv_Cat.v]: Qed?

File: TypeTheory/ALV2/RelUniv_Cat_Iso.v [hunk 17]
```diff
@@ -0,0 +1,120 @@
...
+
+  Definition reluniv_functor_idax
+    : functor_idax reluniv_functor_data.
+  Proof.
+    intros c. 
+    use reluniv_mor_with_ϕ_eq_faithful.
+    - apply idpath.
+    - apply idpath.
+    - apply fully_faithful_implies_full_and_faithful, ff_J.
+  Defined.
```
Comment (benediktahrens) [inline TypeTheory/ALV2/RelUniv_Cat_Iso.v]: Qed?

File: TypeTheory/ALV2/RelUniv_Cat_Iso.v [hunk 18]
```diff
@@ -0,0 +1,120 @@
...
+    : functor_compax reluniv_functor_data.
+  Proof.
+    intros a b c.
+    intros f g.
+
+    use reluniv_mor_with_ϕ_eq_faithful.
+    - apply idpath.
+    - apply idpath.
+    - apply fully_faithful_implies_full_and_faithful, ff_J.
+  Defined.
```
Comment (benediktahrens) [inline TypeTheory/ALV2/RelUniv_Cat_Iso.v]: Qed?

File: TypeTheory/ALV2/RelUniv_Cat_Simple.v [hunk 19]
```diff
@@ -0,0 +1,319 @@
...
+      * apply id_left.
+    - intros a b g.
+      use gen_reluniv_mor_eq.
+      * apply id_right.
+      * apply id_right.
+    - intros a b c d g h k.
+      use gen_reluniv_mor_eq.
+      * apply assoc.
+      * apply assoc.
+  Defined.
```
Comment (benediktahrens) [inline TypeTheory/ALV2/RelUniv_Cat_Simple.v]: Qed?

File: TypeTheory/ALV2/RelUniv_Cat_Simple.v [hunk 20]
```diff
@@ -0,0 +1,319 @@
...
+    : isaset (gen_reluniv_mor u1 u2).
+  Proof.
+    apply isaset_total2.
+    - apply isaset_dirprod.
+      + apply homset_property.
+      + apply homset_property.
+    - intros mor.
+      apply isasetaprop.
+      apply isaprop_is_gen_reluniv_mor.
+  Defined.
```
Comment (benediktahrens) [inline TypeTheory/ALV2/RelUniv_Cat_Simple.v]: Qed?

File: TypeTheory/ALV2/RelUniv_Cat_Simple.v [hunk 21]
```diff
@@ -0,0 +1,319 @@
...
+End RelUniv.
+
+Section RelUniv_Functor.
+
+  Context {C D : category}.
+  Context (J : functor C D).
+
+  Check is_universe_relative_to.
+  Check is_universe_transfer.
+  Locate "∥".
```
Comment (benediktahrens) [inline TypeTheory/ALV2/RelUniv_Cat_Simple.v]:
```suggestion
```

File: TypeTheory/ALV2/RelUniv_Cat_Simple.v [hunk 22]
```diff
@@ -0,0 +1,319 @@
...
+      := gen_reluniv_cat is_universe_relative_to.
+
+End RelUniv.
+
+Section RelUniv_Functor.
+
+  Context {C D : category}.
+  Context (J : functor C D).
+
+  Check is_universe_relative_to.
```
Comment (benediktahrens) [inline TypeTheory/ALV2/RelUniv_Cat_Simple.v]:
```suggestion
```

File: TypeTheory/ALV2/RelUniv_Cat_Simple.v [hunk 23]
```diff
@@ -0,0 +1,319 @@
...
+  Check is_universe_transfer.
```
Comment (benediktahrens) [inline TypeTheory/ALV2/RelUniv_Cat_Simple.v]:
```suggestion
```

File: TypeTheory/ALV2/RelUniv_Cat_Simple.v [hunk 24]
```diff
@@ -0,0 +1,319 @@
...
+  Locate "∥".
+  Search ishinh.
```
Comment (benediktahrens) [inline TypeTheory/ALV2/RelUniv_Cat_Simple.v]:
```suggestion
```

File: TypeTheory/ALV2/RelUniv_Cat_Simple.v [hunk 25]
```diff
@@ -0,0 +1,319 @@
...
+  Check hinhpr.
```
Comment (benediktahrens) [inline TypeTheory/ALV2/RelUniv_Cat_Simple.v]:
```suggestion
```

File: TypeTheory/ALV2/RelUniv_Cat_Simple.v [hunk 26]
```diff
@@ -0,0 +1,319 @@
...
+
+  Check weak_from_relative_universe.
```
Comment (benediktahrens) [inline TypeTheory/ALV2/RelUniv_Cat_Simple.v]:
```suggestion
```

File: TypeTheory/ALV2/RelUniv_Cat_Simple.v [hunk 27]
```diff
@@ -0,0 +1,319 @@
...
+    - apply weak_from_relative_universe.
+    - apply weak_from_reluniv_mor.
+  Defined.
+
+  Definition weak_from_reluniv_functor_idax
+    : functor_idax weak_from_reluniv_functor_data.
+  Proof.
+    intros u.
+    apply idpath.
+  Defined.
```
Comment (benediktahrens) [inline TypeTheory/ALV2/RelUniv_Cat_Simple.v]: Qed

File: TypeTheory/ALV2/RelUniv_Cat_Simple.v [hunk 28]
```diff
@@ -0,0 +1,319 @@
...
+
+  Definition weak_from_reluniv_functor_compax
+    : functor_compax weak_from_reluniv_functor_data.
+  Proof.
+    intros a b c f g.
+    apply idpath.
+  Defined.
```
Comment (benediktahrens) [inline TypeTheory/ALV2/RelUniv_Cat_Simple.v]: Qed

File: TypeTheory/ALV2/RelUniv_Cat_Yo_CwF_Iso.v [hunk 29]
```diff
@@ -0,0 +1,96 @@
...
+  Defined.
+
+  Definition cwf_to_reluniv_functor_idax
+    : functor_idax cwf_to_reluniv_functor_data.
+  Proof.
+    intros c. 
+    use total2_paths_f.
+    + apply idpath.
+    + apply homset_property.
+  Defined.
```
Comment (benediktahrens) [inline TypeTheory/ALV2/RelUniv_Cat_Yo_CwF_Iso.v]: Qed

File: TypeTheory/ALV2/RelUniv_Cat_Yo_CwF_Iso.v [hunk 30]
```diff
@@ -0,0 +1,96 @@
...
+  Definition cwf_to_reluniv_functor_compax
+    : functor_compax cwf_to_reluniv_functor_data.
+  Proof.
+    intros a b c.
+    intros f g.
+
+    use total2_paths_f.
+    + apply idpath.
+    + apply homset_property.
+  Defined.
```
Comment (benediktahrens) [inline TypeTheory/ALV2/RelUniv_Cat_Yo_CwF_Iso.v]: Qed
